US06420373B1
Preparation of [3R, 6S]-9-(6-Methylsulfanyl-hexahydro-furo[3,2-b]-furan-3-yl)-9H-purin-6-ylamine
In an analogous manner to Example 4 the title compound is prepared from the methanesulfonate derivative of 6-(6-amino-purin-9-yl)-hexahydro-furo[3,2-b]furan-3-ol.

reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | 6-(6-amino-purin-9-yl)-hexahydro-furo[3,2-b]furan-3-ol | NC1=C2N=CN(C2=NC=N1)C1COC2C1OCC2O | C11H13N5O3
product | [3R, 6S]-9-(6-Methylsulfanyl-hexahydro-furo[3,2-b]-furan-3-yl)-9H-purin-6-ylamine | CS[C@H]1COC2C1OC[C@H]2N2C1=NC=NC(=C1N=C2)N | C12H15N5O2S
